US05618811
A. N-(1-Methylcyclohexyl)-2-[3-bromo-2-oxo-5-phenyl-8-methyl-2,3,4,5,-tetrahydro-1H-(1)benzazepin-1yl]ethanoic acid amide
Prepared as in Example 20I from 3-bromo-5-phenyl-8-methyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-2-one using N-(1-methylcyclohexyl)-iodoacetamide, M.P. x° C., x% yield for the trans isomer.

reactant | 3-bromo-5-phenyl-8-methyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-2-one | BrC1C(NC2=C(C(C1)C1=CC=CC=C1)C=CC(=C2)C)=O | C17H16BrNO
reactant | N-(1-methylcyclohexyl)-iodoacetamide | CC1(CCCCC1)NC(CI)=O | C9H16INO
product | N-(1-Methylcyclohexyl)-2-[3-bromo-2-oxo-5-phenyl-8-methyl-2,3,4,5,-tetrahydro-1H-(1)benzazepin-1yl]ethanoic acid amide | CC1(CCCCC1)NC(CN1C(C(CC(C2=C1C=C(C=C2)C)C2=CC=CC=C2)Br)=O)=O | C26H31BrN2O2
